US06136821
6-Ethynyl-8-(3-nitrophenyl)-1,7-naphthyridine
To a solution of 6-trimethylsilylethynyl-8-(3-nitrophenyl)-1,7-naphthyridine (77 mg, 0.22 mmol) in methanol (0.5 ml) and toluene (0.5 ml) is added 1N potassium hydroxide (0.22 ml). The mixture was stirred for 2 h. The suspension is filtered and the product washed with water and ether affording the title compound. Mass M+H 276; mp 215° C. decomposition.

reactant | 6-trimethylsilylethynyl-8-(3-nitrophenyl)-1,7-naphthyridine | 0.22 mmol, 77 mg | C[Si](C)(C)C#CC=1C=C2C=CC=NC2=C(N1)C1=CC(=CC=C1)[N+](=O)[O-] | C19H17N3O2Si
reactant | potassium hydroxide | 1N, 0.22 ml | [OH-].[K+]
solvent | methanol | 0.5 ml | CO | CH4O
solvent | toluene | 0.5 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Ethynyl-8-(3-nitrophenyl)-1,7-naphthyridine | C(#C)C=1C=C2C=CC=NC2=C(N1)C1=CC(=CC=C1)[N+](=O)[O-] | C16H9N3O2
